US07361677B2
4-{[2-(3-Hydroxy-phenylsulfanyl)-ethyl]-[1,2,4]triazol-4-yl-amino}-benzonitrile (CAB02149, STX512)
A mixture of 4-[(2-bromo-ethyl)-[1,2,4]triazol-4-yl-amino]-benzonitrile (CAB02148=CAB03031, 146 mg, 0.50 mmol), 3-(tert-butyl-dimethylsiloxy)-thiophenol (240 mg, 1.0 mmol) and potassium carbonate (276 mg, 2.0 mmol) in DMF (10 mL) was stirred for 48 hours at room temperature. The mixture was transferred into a separation funnel and ethyl acetate (50 mL) and water (50 mL) were added. The organic layer was separated, washed with brine (30 mL), dried over sodium sulphate and concentrated under reduced pressure. The residue was crystallised from methanol. Yield: 93 mg (55%) colourless crystals. 1H-NMR (400 MHz, d6-DMSO) δ=3.14 (t, J=7.0 Hz, 2H), 4.02 (t, J=7.0 Hz, 2H), 6.53 (d, J=9.0 Hz, 2H), 6.62 (ddd, J=7.8, 2.0, 0.8 Hz, 1H), 6.70-6.72 (m, 2H), 7.10 (dd, J=7.8, 7.8, 1H), 7.70 (d, J=9.0 Hz, 2H), 8.94 (s, 2H), 9.60 (s, 1H, —OH). 13C-NMR (100 MHz, d6-DMSO) δ=29.53, 52.46, 102.38, 112.86, 113.57, 115.36, 119.00, 130.11, 133.94, 135.82, 143.50, 150.71, 157.90, 169.59. LRMS (FAB+): 338.2 (100, [M+H]+). Found: C 60.6, H 4.53, N 20.8%; C17H15N5OS (337.4) requires C 60.52, H 4.48, N 20.76%.

reactant | 4-[(2-bromo-ethyl)-[1,2,4]triazol-4-yl-amino]-benzonitrile | 0.50 mmol, 146 mg | BrCCN(C1=CC=C(C#N)C=C1)N1C=NN=C1 | C11H10BrN5
reactant | 3-(tert-butyl-dimethylsiloxy)-thiophenol | 1.0 mmol, 240 mg | O([Si](C)(C)C(C)(C)C)C=1C=C(C=CC1)S | C12H20OSSi
reactant | potassium carbonate | 2.0 mmol, 276 mg | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | water | 50 mL | O | H2O
product | 4-{[2-(3-Hydroxy-phenylsulfanyl)-ethyl]-[1,2,4]triazol-4-yl-amino}-benzonitrile | OC=1C=C(C=CC1)SCCN(C1=CC=C(C#N)C=C1)N1C=NN=C1 | C17H15N5OS
